US06180653B2
Preparation of 5-phenyl-3-(3-phenylpropionyl)aminopyrazole
3-Amino-5-phenylpyrazole (160 mg) was dissolved in pyridine (1 ml) to which was subsequently added 3-phenylpropionyl chloride (0.15 ml), and the mixture was stirred at room temperature for 14 hours and then at 50° C. for 30 minutes. The reaction solution was diluted with ethyl acetate (15 ml), washed with water (15 ml), 10% citric acid (15 ml), 1 N aqueous sodium hydroxide solution (15 ml) and saturated brine (15 ml) and then dried over anhydrous sodium sulfate. The solvent was distilled away under a reduced pressure, and the resulting residue was crystallized from ethanol to obtain the title compound (139 mg) as white crystals (melting point: 168 −170° C.).

reactant | 3-Amino-5-phenylpyrazole | 160 mg | NC1=NNC(=C1)C1=CC=CC=C1 | C9H9N3
reactant | 3-phenylpropionyl chloride | 0.15 ml | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 5-phenyl-3-(3-phenylpropionyl)aminopyrazole | 139 mg | C1(=CC=CC=C1)C1=CC(=NN1)NC(CCC1=CC=CC=C1)=O | C18H17N3O
